US08614226B2
A solution of 5.43 g (19.1 mmol) 3-bromo-5-iodo-pyridine and 6.12 g (21.0 mmol) 1-(2-pyrrolidin-1-yl-ethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazol in 17 ml 1,2-dimethoxyethan was treated with 8.12 g (38.2 mmol) tri-potassium-phosphate-trihydrate and was heated to 80° C. under nitrogen. Then 403 mg (0.57 mmol) bis(triphenyl-phosphine)palladium(II)-chloride were added. The reaction mixture was stirred for 18 hours at 80° C. The reaction mixture was partitioned between water and dichloromethane. The organic phase was extracted several times with 1 N HCl and was washed with water. The aqueous phases were combined, basified with 50% aqueous NaOH. Brine and THF were added. The organic phase was separated and the aqueous phase was extracted several times with THF. The combined organic phases were dried over sodium sulfate and evaporated. The residue was chromatographed on a silica gel column with dichloromethane/methanol as eluent yielding 3-bromo-5-[1-(2-pyrrolidin-1-yl-ethyl)-1H-pyrazol-4-yl]-pyridine as brown oil; HPLC-MS: 1.29 min, [M+H] 321/323.

reactant | 3-bromo-5-iodo-pyridine | 19.1 mmol, 5.43 g | BrC=1C=NC=C(C1)I | C5H3BrIN
reactant | 1-(2-pyrrolidin-1-yl-ethyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazol | 21.0 mmol, 6.12 g | N1(CCCC1)CCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H26BN3O2
reactant | tri-potassium-phosphate-trihydrate | 38.2 mmol, 8.12 g | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,2-dimethoxyethan | 17 ml | COCCOC | C4H10O2
catalyst | bis(triphenyl-phosphine)palladium(II)-chloride | 0.57 mmol, 403 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 3-bromo-5-[1-(2-pyrrolidin-1-yl-ethyl)-1H-pyrazol-4-yl]-pyridine | BrC=1C=NC=C(C1)C=1C=NN(C1)CCN1CCCC1 | C14H17BrN4
